US07772227B2
(R)-3-Cyclohexyl-2,3-dihydro-6-[(S)-octahydro-2H-pyrido[1,2-a]pyrazin-2-ylcarbonyl]-pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt
To a solution of (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine (100 mg, 0.41 mmol) in 1,1,2,2-tetrachloroethane (2.0 ml), was added oxalyl chloride (58 mg, 0.46 mmol) with stirring under a stream of nitrogen. The mixture was heated at 120° C. for 1.5 h. The mixture was cooled to room temperature and triethylamine (46 mg, 0.46 mmol) and (S)-octahydro-2H-pyrido[1,2-a]pyrazine (70 mg, 0.50 mmol) were added. The mixture was stirred at room temperature for 19 h and then partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane, and the combined organic layers washed with brine, dried over Na2SO4 and concentrated. The resulting brown oil was purified by flash chromatography eluting with 50% (v/v) ethyl acetate in n-heptane, then 0-17% (v/v) methanol in ethyl acetate to afford the title compound as the free base. Hydrochloride salt formation was achieved by the addition of hydrogen chloride (2 M solution in diethyl ether, 1 ml) to a solution of the free base in diethyl ether (2 ml) and ethanol (2 ml). The solvent was removed in vacuo and the precipitate was dried to afford the title compound (1:1 hydrochloride salt) as a solid (78 mg, 0.18 mmol).

reactant | (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine | 0.41 mmol, 100 mg | C1(CCCCC1)[C@@H]1COC=2C=3N1C=CC3C=CC2 | C16H19NO
reactant | oxalyl chloride | 0.46 mmol, 58 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.46 mmol, 46 mg | C(C)N(CC)CC | C6H15N
reactant | (S)-octahydro-2H-pyrido[1,2-a]pyrazine | 0.50 mmol, 70 mg | C1[C@H]2N(CCN1)CCCC2 | C8H16N2
solvent | 1,1,2,2-tetrachloroethane | 2.0 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | (R)-3-Cyclohexyl-2,3-dihydro-6-[(S)-octahydro-2H-pyrido[1,2-a]pyrazin-2-ylcarbonyl]-pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2C[C@H]3N(CC2)CCCC3 | InChI=1S/C25H33N3O2.ClH/c29-25(27-14-13-26-12-5-4-9-19(26)15-27)21-16-28-22(18-7-2-1-3-8-18)17-30-23-11-6-10-20(21)24(23)28;/h6,10-11,16,18-19,22H,1-5,7-9,12-15,17H2;1H/t19-,22-;/m0./s1
